US07495104B2
Compound 42: (4-Tert-butylphenyl)-{4-[6-methoxy-7-(1-propylpiperidin-4-ylmethoxy)quinolin-4-yloxy]phenyl}amine
(4-Tert-butylphenyl)-{4-[6-methoxy-7-(4-piperidinylmethoxy)-4-quinolyloxy]phenyl}amine (150 mg) was dissolved in N,N-dimethylformamide (3 ml) to prepare a solution. Potassium carbonate (300 mg) and 1-bromopropane (0.15 ml) were then added to the solution, and the mixture was stirred at room temperature for 4 hr. Water and ethyl acetate were added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and was dried over sodium sulfate. The solvent was removed by evaporation under the reduced pressure, and the residue was purified by thin-layer chromatography on silica gel using chloroform/acetone for development to give the title compound (12 mg, yield 7%).

reactant | (4-Tert-butylphenyl)-{4-[6-methoxy-7-(4-piperidinylmethoxy)-4-quinolyloxy]phenyl}amine | 150 mg | C(C)(C)(C)C1=CC=C(C=C1)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCC1CCNCC1 | C32H37N3O3
reactant | Potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropane | 0.15 ml | BrCCC | C3H7Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Tert-butylphenyl)-{4-[6-methoxy-7-(1-propylpiperidin-4-ylmethoxy)quinolin-4-yloxy]phenyl}amine | 12 mg, yield 7% | C(C)(C)(C)C1=CC=C(C=C1)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)CCC | C35H43N3O3
